US03932466
2-acetoxy-5-chlorobenzoic acid.
-- A mixture of 86 g (0.5 mole) of 5-chloro salicylic acid and 102 g (1.0 mole) of acetic anhydride was warmed to 40°C. With stirring, 5 drops of conc. sulfuric acid are added, which causes an exothermic reaction. The mixture is stirred for 1/2 hour at 60°C. then poured into ice. The solid is filtered, washed with water and air dried, mp 146°-8°C, and is used as is for the next step.

reactant | 5-chloro salicylic acid | 0.5 mole, 86 g | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | acetic anhydride | 1.0 mole, 102 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
product | 2-acetoxy-5-chlorobenzoic acid | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)Cl | C9H7ClO4
